US04968708
2-Methylimidazo[2,1-b]benzothiazole-3-methanol methyl ether:
In 30 ml of dry dimethylformamide was suspended 2.18 g of 2-methylimidazo[2,1-b]benzothiazole-3-methanol and, 0.50 g of 60% sodium hydride was added to the suspension followed by stirring at room temperature for minutes. After 1.74 g of methyl iodide was added thereto, the mixture was stirred for one hour. Then ice water was added to the reaction mixture followed by extracting with ethyl acetate. After the ethyl acetate was removed, 1.41 g of the title compound was obtained.

reactant | 2-methylimidazo[2,1-b]benzothiazole-3-methanol | 2.18 g | CC=1N=C2SC3=C(N2C1CO)C=CC=C3 | C11H10N2OS
reactant | sodium hydride | 0.50 g | [H-].[Na+]
reactant | methyl iodide | 1.74 g | CI | CH3I
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-Methylimidazo[2,1-b]benzothiazole-3-methanol methyl ether | 1.41 g | COCC1=C(N=C2SC3=C(N21)C=CC=C3)C | C12H12N2OS
